* C:\users\thiago\Documents\UTN\2026\TC2\tareas_tc2\Laboratorio\archivos\LTSpice\laboratorio1.asc
* Generated by LTspice 26.0.2 for Windows.
X§U1 0 N001 V+ V- N007 TL084 ;§pnba In+)In-)V+)V-)OUT
X§U2 N009 0 V+ V- Vu2 TL084 ;§pnba In+)In-)V+)V-)OUT
X§U3 0 N004 V+ V- N003 TL084 ;§pnba In+)In-)V+)V-)OUT
R1 N001 N011 {R11}
R2 N007 N001 {R21}
R3 N009 N007 {R31}
R4 Vu2 N001 {R31}
R5 Vu2 N004 {R4}
R6 N004 N003 {R4}
C1 N007 N001 {C}
C2 N003 N009 {C}
V1 N011 0 SINE(0 1 1k) AC 1 Rser=50
V2 0 V- 12
V3 V+ 0 12
X§U4 0 N002 V+ V- N008 TL084 ;§pnba In+)In-)V+)V-)OUT
X§U5 N010 0 V+ V- Vout TL084 ;§pnba In+)In-)V+)V-)OUT
X§U6 0 N006 V+ V- N005 TL084 ;§pnba In+)In-)V+)V-)OUT
R7 N002 Vu2 {R12}
R8 N008 N002 {R22}
R9 N010 N008 {R32}
R10 Vout N002 {R32}
R11 Vout N006 {R4}
R12 N006 N005 {R4}
C3 N008 N002 {C}
C4 N005 N010 {C}
* Valores Comerciales
.param R11 = 2.2k
.param R31 = 3.3k
.param R21 = 1.8k
.param C = 10n
* Librerias
.include tl084.301
.param R4 = 1k
.param R12 = 1.8k + 220
.param R22 = 2.2k + 220
.param R32 = 2.7k + 330
.ac dec 100 1 1Meg
.backanno
.end
